US03975443
1-(2-Chlorobenzamidomethylcyclohexyl) piperidine
A mixture of 1-(1-aminomethylcyclohexyl) piperidine (1.5 g.), 2-chlorobenzoyl chloride (2 ml) and pyridine (10 ml) was allowed to stand at room temperature for 1 hr. with no apparent effect. The mixture was therefore refluxed for 1 hr., cooled, diluted with water, basified with ammonia and extracted with chloroform. This chloroform extract was washed with water, dried (Na2SO4), and evaporated to give a viscous, brown oil (3.0 g. 79.2%). On dissolving in ether and bubbling dry HCl gas into the solution pale buff rosettes of 1-(2-chlorobenzamidomethylcyclohexyl) piperidine hydrochloride, m.p. 234°-6° were obtained (from -ethanol/ether.

reactant | 1-(1-aminomethylcyclohexyl) piperidine | 1.5 g | NCC1(CCCCC1)N1CCCCC1 | C12H24N2
reactant | 2-chlorobenzoyl chloride | 2 ml | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-(2-Chlorobenzamidomethylcyclohexyl) piperidine | ClC1C(CCCC1)(N1CCCCC1)CNC(C1=CC=CC=C1)=O | C19H27ClN2O
